US05880121
3-(1-Piperazinyl)-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole
A stirred mixture of 3-chloro-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole (2.0 g, 8.51 mmol), piperazine (7.0 g, 80.6 mmol) and K2CO3 (2.4 g, 17.1 mmol) in 8.0 ml of N-methylpyrrolidinone under N2 was lowered into an oil bath preheated to 150° C. The mixture was heated while stirring under N2 for 20 minutes. At that time TLC [CH2Cl2 ] showed no starting material remained. The mixture was removed from the heating bath and allowed to cool to room temperature. Upon dilution of the reaction mixture with H2O, a solid precipitated which was collected and dried in vacuo to provide pure product, mp of 86°-88° C., homogeneous by TLC [silica, 1:1 CH3OH:CH2Cl2, Rf=0.37]. The IR (CHCl3), NMR (CDCl3) and Mass Spectrum (M+ =285, EI, 70 eV) were consistent with the structure. The yield was 1.932 g (6.78 mmol, 79.66%).

reactant | 3-chloro-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole | 8.51 mmol, 2.0 g | ClC1=C2C(=NO1)C1=CC(=CC=C1CC2)OC | C12H10ClNO2
reactant | piperazine | 80.6 mmol, 7.0 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 17.1 mmol, 2.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N-methylpyrrolidinone | 8.0 ml | CN1C(CCC1)=O | C5H9NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH3OH | CO | CH4O
product | 3-(1-Piperazinyl)-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole | N1(CCNCC1)C1=C2C(=NO1)C1=CC(=CC=C1CC2)OC | C16H19N3O2
